US06831106B1
b) Methyl 3′-[3,4-bis(1-phenylmethanoyloxymethyl)benzyloxy]-2′-methylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(i), by reaction of 1 g (4.1 mmol) of methyl 3′-hydroxy-2′-methylbiphenyl-4-carboxylate with 2 g (4.5 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 650 mg (4.7 mmol) of potassium carbonate, the desired product is obtained in the form of a colourless oil (m=2.4 9; Y=97%).

reactant | methyl 3′-hydroxy-2′-methylbiphenyl-4-carboxylate | 4.1 mmol, 1 g | OC=1C(=C(C=CC1)C1=CC=C(C=C1)C(=O)OC)C | C15H14O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 4.5 mmol, 2 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 4.7 mmol, 650 mg | C([O-])([O-])=O.[K+].[K+]
product | Methyl 3′-[3,4-bis(1-phenylmethanoyloxymethyl)benzyloxy]-2′-methylbiphenyl-4-carboxylate | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C(=C(C=CC2)C2=CC=C(C=C2)C(=O)OC)C)C=CC1COC(=O)C1=CC=CC=C1 | C38H32O7
